US07064123B1
To a stiffed mixture of 4-oxo-2-benzylsulfonylmethyl-4-piperidin-1-yl-butyric acid (105.9 mg, 0.3 mmol), 2-amino-1-(5-pyridin-4-yl-[1,3,4]oxadiazol-2-yl)-butan-1-ol TFA salt (105 mg), prepared as in reference 18, and HOBt (55 mg, 0.36 mmol) in MeCl2 (5 ml), was added EDC (86.4 mg, 0.45 mmol) and N-methylmorpholine (0.25 ml) at room temperature. After stirring for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3, brine, dried with MgSO4 and concentrated to yield 176 mg of N-{1-[Hydroxy-(5-pyridin-4-yl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonyl-methyl-butyramide; MS: 570.2(M−1), 572(M+1).

reactant | 4-oxo-2-benzylsulfonylmethyl-4-piperidin-1-yl-butyric acid | 0.3 mmol, 105.9 mg | O=C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)N1CCCCC1 | C17H23NO5S
reactant | 2-amino-1-(5-pyridin-4-yl-[1,3,4]oxadiazol-2-yl)-butan-1-ol TFA salt | 105 mg | OC(=O)C(F)(F)F.NC(C(O)C=1OC(=NN1)C1=CC=NC=C1)CC
reactant | HOBt | 0.36 mmol, 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.45 mmol, 86.4 mg
reactant | N-methylmorpholine | 0.25 ml | CN1CCOCC1 | C5H11NO
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{1-[Hydroxy-(5-pyridin-4-yl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonyl-methyl-butyramide | 176 mg | OC(C(CC)NC(C(CC(=O)N1CCOCC1)(S(=O)(=O)CC1=CC=CC=C1)C)=O)C=1OC(=NN1)C1=CC=NC=C1 | C27H33N5O7S
